US03993763
Moreover, the 4-fluoro-phenyl-acetonitrile can be reacted with 4-oxo-piperidine, to yield the 4-(4-oxo-piperidino)-phenylacetonitrile, which is hydrolyzed to the free acid and the acid esterified, to yield corresponding ethyl esters. The carbonyl group therein is reduced with one equivalent of Grignard compounds, e.g. methyl-, ethyl- or n-propyl-magnesium bromide, to yield the ethyl 4-[4-hydroxy-4-(methyl, ethyl or n-propyl)-piperidino]-phenyl acetate. Analogously, the α-[3-chloro-4-(4-hydroxy-4-methyl-piperidino)-phenyl]-propionate is obtained.

reactant | 4-fluoro-phenyl-acetonitrile | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | 4-oxo-piperidine | O=C1CCNCC1 | C5H9NO
product | 4-(4-oxo-piperidino)-phenylacetonitrile | O=C1CCN(CC1)C1=CC=C(C=C1)CC#N | C13H14N2O
